US07932279B2
{2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-yl-[4-(1-methyl-piperidin-4-ylmethyl]-piperazin-1-yl}-methanone (69)
This product was synthesized using 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid and 1-(N-methylpiperidin-4-yl-methyl)piperazine as described in general procedure D. LCMS: 550 [M+H].

reactant | 2′,4′-bis-benzyloxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-carboxylic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)O | C32H30N4O5
reactant | 1-(N-methylpiperidin-4-yl-methyl)piperazine | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
product | 2′,4′-Dihydroxy-5′-[1-(3-methoxy-propyl)-1H-tetrazol-5-yl]-biphenyl-3-yl-[4-(1-methyl-piperidin-4-ylmethyl]-piperazin-1-yl}-methanone | OC1=C(C=C(C(=C1)O)C1=NN=NN1CCCOC)C1=CC(=CC=C1)C(=O)N1CCN(CC1)CC1CCN(CC1)C | C29H39N7O4
